US08497274B2
(iv) Production of N-{5-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]-2-fluorophenyl}-2-[3-(trifluoromethyl)phenyl]acetamide
To a solution of N-[5-(4-amino-2-cyanophenoxy)-2-fluorophenyl]-2-[3-(trifluoromethyl)phenyl]acetamide (1.15 g, 2.68 mmol) in acetic acid (40 mL) was added potassium thiocyanate (1.22 g, 12.6 mmol), and the mixture was stirred at room temperature for 10 min. A solution of bromine (652 mg, 4.08 mmol) in acetic acid (6.5 mL) was added dropwise to the obtained solution over 10 min. After the completion of the dropwise addition, the mixture was stirred at room temperature for 12 hr. The reaction mixture was diluted with acetic acid (50 mL), and insoluble material was filtered off and washed with acetic acid, the filtrate and washings were combined and the mixture was concentrated under reduced pressure. The obtained residue was suspended in ethyl acetate (120 mL)/tetrahydrofuran (12 mL), and the suspension was washed successively with saturated aqueous sodium hydrogen carbonate solution (120 mL) and saturated brine (120 mL), and dried over anhydrous magnesium sulfate. Insoluble material was filtered off, the filtrate was purified by basic silica gel column chromatography (eluate: ethyl acetate), and the obtained solution was concentrated under reduced pressure to give the title compound (1.13 g, 87%) as a beige powder.

reactant | N-[5-(4-amino-2-cyanophenoxy)-2-fluorophenyl]-2-[3-(trifluoromethyl)phenyl]acetamide | 2.68 mmol, 1.15 g | NC1=CC(=C(OC=2C=CC(=C(C2)NC(CC2=CC(=CC=C2)C(F)(F)F)=O)F)C=C1)C#N | C22H15F4N3O2
reactant | potassium thiocyanate | 12.6 mmol, 1.22 g | [S-]C#N.[K+]
reactant | bromine | 4.08 mmol, 652 mg | BrBr | Br2
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 6.5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | N-{5-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]-2-fluorophenyl}-2-[3-(trifluoromethyl)phenyl]acetamide | 1.13 g, 87% | NC=1SC2=C(N1)C=CC(=C2C#N)OC=2C=CC(=C(C2)NC(CC2=CC(=CC=C2)C(F)(F)F)=O)F | C23H14F4N4O2S
